US08314091B2
C: N-tert-Butyl-3-((4-(4-(3-cyclobutylureido)-3-fluorobenzoyl)-2,2-dimethylpiperazin-1-yl)methyl)benzamide
To 3-((4-(4-amino-3-fluorobenzoyl)-2,2-dimethylpiperazin-1-yl)methyl)-N-tert-butylbenzamide (0.1 mmol, 45 mg) in dichloromethane (1.5 mL) was added 4-nitrophenyl chloroformate (0.11 mmol, 23 mg). The mixture was allowed to stir for 2 hours before the addition of cyclobutylamine (1.757 mmol, 125 mg, 150 μl). The mixture was allowed to stir for a further 16 hours before being concentrated under vacuum and purified by acidic reverse phase HPLC. The free base of the product was obtained using strong cation exchange column chromatography. This material was lyophilised to yield the title compound (16 mg).

reactant | 3-((4-(4-amino-3-fluorobenzoyl)-2,2-dimethylpiperazin-1-yl)methyl)-N-tert-butylbenzamide | 0.1 mmol, 45 mg | NC1=C(C=C(C(=O)N2CC(N(CC2)CC=2C=C(C(=O)NC(C)(C)C)C=CC2)(C)C)C=C1)F | C25H33FN4O2
reactant | 4-nitrophenyl chloroformate | 0.11 mmol, 23 mg | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | cyclobutylamine | 1.757 mmol, 150 μl, 125 mg | C1(CCC1)N | C4H9N
solvent | dichloromethane | 1.5 mL | ClCCl | CH2Cl2
product | N-tert-Butyl-3-((4-(4-(3-cyclobutylureido)-3-fluorobenzoyl)-2,2-dimethylpiperazin-1-yl)methyl)benzamide | 16 mg | C(C)(C)(C)NC(C1=CC(=CC=C1)CN1C(CN(CC1)C(C1=CC(=C(C=C1)NC(=O)NC1CCC1)F)=O)(C)C)=O | C30H40FN5O3
